US09315458B2
H) methyl 4-ethyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)-2-vinylbenzoate
A mixture of methyl 4-ethyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)-2-(((trifluoromethyl)sulfonyl)oxy)benzoate (0.32 g), tributylvinyltin (0.32 g), trans-dichlorobis(triphenylphosphine)palladium(II) (0.02 g), lithium chloride (0.21 g) and DMF (6.00 mL) was stirred at 90° C. for 2 hr under argon atmosphere. To the reaction mixture was added aqueous potassium fluoride solution, and the precipitated insoluble substance was removed by filtration. The filtrate was diluted with ethyl acetate, and the mixture was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.21 g). This compound was used in the next step without an additional purification.

reactant | methyl 4-ethyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)-2-(((trifluoromethyl)sulfonyl)oxy)benzoate | 0.32 g | C(C)C1=CC(=C(C(=O)OC)C=C1CC1=CC=C(C=C1)C1=NN(C=C1)C)OS(=O)(=O)C(F)(F)F | C22H21F3N2O5S
reactant | tributylvinyltin | 0.32 g | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | lithium chloride | 0.21 g | [Cl-].[Li+]
reactant | potassium fluoride | [F-].[K+]
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.02 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 6.00 mL | CN(C)C=O | C3H7NO
product | methyl 4-ethyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)-2-vinylbenzoate | 0.21 g | C(C)C1=CC(=C(C(=O)OC)C=C1CC1=CC=C(C=C1)C1=NN(C=C1)C)C=C | C23H24N2O2
